simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"

VVDD (VDD 0) vsource dc=0.9
VVSS (VSS 0) vsource dc=0
VVIN (VIN 0) vsource type=pulse val0=0.2 val1=0.7 delay=5n rise=100p fall=100p width=20n period=40n

XDUT (VDD VSS VIN FLAG) comp_flag

tran tran stop=220n maxstep=100p
save VIN FLAG
